US07479488B2
31e methyl (R)-3-(4-chloro-3,5-dimethyl-phenyl)-2-hydroxy-propionate
4.4 mL (59.9 mmol) SOCl2 were added dropwise to a solution of 12.45 g (54.4 mmol) of (R)-3-(4-chloro-3,5-dimethyl-phenyl)-2-hydroxy-propionic acid in 300 mL MeOH cooled to 0° C. and the reaction mixture was stirred for 1 h at RT. The reaction solution was evaporated down i. vac. and the residue was purified by chromatography (silica gel, cyc/EtOAc 4:1).

reactant | SOCl2 | 59.9 mmol, 4.4 mL | O=S(Cl)Cl | Cl2OS
reactant | (R)-3-(4-chloro-3,5-dimethyl-phenyl)-2-hydroxy-propionic acid | 54.4 mmol, 12.45 g | ClC1=C(C=C(C=C1C)C[C@H](C(=O)O)O)C | C11H13ClO3
reactant | MeOH | 300 mL | CO | CH4O
product | methyl (R)-3-(4-chloro-3,5-dimethyl-phenyl)-2-hydroxy-propionate | ClC1=C(C=C(C=C1C)C[C@H](C(=O)OC)O)C | C12H15ClO3
